US06046213
A mixture of sodium borohydride (0.085 g, 2.25 mmol) and ethanol (5 mL) was stirred 10 min and then 1-(4-benzyloxy-3,5-difluorophenyl)-2-(4-(4-trifluoromethylphenyl)-4-hydroxypiperidin-1-yl)-propan-1-one (1.02 g, 1.96 mmol in 30 mL of ethanol) was added. The reaction was stirred at ambient temperature overnight. The white solid which precipitated was collected by filtration and dried to yield 0.66 g (65%) of (1R*,2R*)-1-(4-benzyloxy-3,5-difluorophenyl)-2-(4-(4-trifluormethylphenyl)-4-hydroxypiperidin-1-yl)-propan-1-ol which was suitable for use without further purification and had: mp 201-202° C. Analysis calculated for C28H28F5NO3.0.25 H2O: C, 63.93; H, 5.46; N, 2.66. Found: C, 63.98; H, 5.49; N, 2.70.

reactant | sodium borohydride | 2.25 mmol, 0.085 g | [BH4-].[Na+]
reactant | 1-(4-benzyloxy-3,5-difluorophenyl)-2-(4-(4-trifluoromethylphenyl)-4-hydroxypiperidin-1-yl)-propan-1-one | 1.96 mmol, 30 mL, 1.02 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1F)C(C(C)N1CCC(CC1)(O)C1=CC=C(C=C1)C(F)(F)F)=O)F | C28H26F5NO3
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (1R*,2R*)-1-(4-benzyloxy-3,5-difluorophenyl)-2-(4-(4-trifluormethylphenyl)-4-hydroxypiperidin-1-yl)-propan-1-ol | 0.66 g, 65% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1F)[C@H]([C@@H](C)N1CCC(CC1)(O)C1=CC=C(C=C1)C(F)(F)F)O)F | C28H28F5NO3
